US04429140
The reaction procedure of Example 8 is repeated in the same manner with the exception of using 26.8 g of sorbitol, 48.0 g of p-isopropylbenzaldehyde, 1.0 g of C9 alkylbenzenesulfonic acid, 9 ml of dimethylsulfoxide, 120 ml of benzene and 100 ml of isopropanol. The reaction is conducted in a semisolid phase for 3 hours, giving di-(p-isopropylbenzylidene)sorbitol in a yield of 93% with a purity of 95%.

reactant | sorbitol | 26.8 g | OC[C@H](O)[C@@H](O)[C@H](O)[C@H](O)CO | C6H14O6
reactant | p-isopropylbenzaldehyde | 48.0 g | C(C)(C)C1=CC=C(C=O)C=C1 | C10H12O
reactant | dimethylsulfoxide | 9 ml | CS(=O)C | C2H6OS
reactant | benzene | 120 ml | C1=CC=CC=C1 | C6H6
reactant | isopropanol | 100 ml | C(C)(C)O | C3H8O
product | di-(p-isopropylbenzylidene)sorbitol | yield of 93% | C(C)(C)C1=CC=C(C=C([C@H]([C@H]([C@@H]([C@H](C(O)=CC2=CC=C(C=C2)C(C)C)O)O)O)O)O)C=C1 | C26H34O6
